US04489093
Using the procedure of Step B of Example 43, (1R,cis,E) 2,2-dimethyl-3-(2-fluoro-3-oxo-3-methoxy-1-propenyl)-cyclopropane carboxylic acid and [3-(2-propyn-1-yl)-2,5-dioxo-1-imidazolidinyl]-methanol were reacted to obtain [3-(2-propyn-1-yl)-2,5-dioxo-1-imidazolidinyl]-methyl (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-methoxy-1-propenyl]-cyclopropanecarboxylate with a specific rotation of [α]D20 =+3.5°±2° (c=0.5% in chloroform).

reactant | (1R,cis,E) 2,2-dimethyl-3-(2-fluoro-3-oxo-3-methoxy-1-propenyl)-cyclopropane carboxylic acid | CC1([C@@H]([C@@H]1\C=C(/C(OC)=O)\F)C(=O)O)C | C10H13FO4
reactant | [3-(2-propyn-1-yl)-2,5-dioxo-1-imidazolidinyl]-methanol | C(C#C)N1C(N(C(C1)=O)CO)=O | C7H8N2O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | [3-(2-propyn-1-yl)-2,5-dioxo-1-imidazolidinyl]-methyl (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-methoxy-1-propenyl]-cyclopropanecarboxylate | CC1([C@@H]([C@@H]1\C=C(/C(OC)=O)\F)C(=O)OCN1C(N(CC1=O)CC#C)=O)C | C17H19FN2O6
